US07488823B2
Step B: 2-Azidomethyl-4-bromo-thiazole.
(4-Bromo-thiazol-2-yl)-methanol (1.1 g, 5.7 mmol) in DMF (15 ml) is treated at room temperature under nitrogen atmosphere with trifluoromethanesulfonyl chloride (0.61 ml, 1 equivalent), and Et3N (0.8 ml, 1 equivalent). The reaction mixture is stirred for 3 hours at room temperature before the addition of sodium azide (1.11 g, 3 equivalents), followed by overnight stirring at the same temperature. The reaction mixture is diluted with water and extracted with DCM and diethyl ether. The combined organic extracts are dried (MgSO4) and concentrated under reduced pressure to afford the crude product, which is used without purification in the next step.

reactant | (4-Bromo-thiazol-2-yl)-methanol | 5.7 mmol, 1.1 g | BrC=1N=C(SC1)CO | C4H4BrNOS
reactant | trifluoromethanesulfonyl chloride | 0.61 ml, 1 equivalent | FC(S(=O)(=O)Cl)(F)F | CClF3O2S
reactant | Et3N | 0.8 ml, 1 equivalent | CCN(CC)CC | C6H15N
reactant | sodium azide | 1.11 g, 3 equivalents | [N-]=[N+]=[N-].[Na+]
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-Azidomethyl-4-bromo-thiazole | N(=[N+]=[N-])CC=1SC=C(N1)Br | C4H3BrN4S
